US03953464
2.4 g. 3-imino-1-phenyl-3H-1,2-benzisothiazole-1-oxide are boiled for 1 hour with 1.32 g. triethylamine and 1.6 g. phenylacetyl chloride in 50 cc. chloroform. After working up in the usual manner, there is obtained 3-(phenylacetylimino)-1-phenyl-3H-1,2-benzisothiazole-1-oxide in the form of yellow crystals which, after recrystallisation from ethyl acetate, melt at 120°C.

reactant | 3-imino-1-phenyl-3H-1,2-benzisothiazole-1-oxide | N=C1NS(C2=C1C=CC=C2)(C2=CC=CC=C2)=O | C13H12N2OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(phenylacetylimino)-1-phenyl-3H-1,2-benzisothiazole-1-oxide | C1(=CC=CC=C1)CC(=O)N=C1NS(C2=C1C=CC=C2)(C2=CC=CC=C2)=O | C21H18N2O2S
